US09278922B2
(R)-2-morpholino-2-phenylacetic acid
To (R)-2-amino-2-phenylacetic acid (1.0 g, 6.62 mmol), 1-bromo-2-(2-bromoethoxy)ethane (1.686 g, 0.727 mmol) and sodium carbonate (2.103 g, 19.85 mmol) was added ethanol (40 mL) and the resultant mixture heated at 100° C. for 45 hours. After cooling, the resultant solid was removed by filtration and washed with ethanol. The filtrate was concentrated, and then dissolved in ethanol then a solution of 4N aqueous hydrochloric acid added until the pH of the solution was 3. The resultant solid was removed and discarded. The filtrate was concentrated and purified by reversed phase chromatography (C18), eluting with 10-100% acetonitrile in water (0.1% TFA) to give the title compound. MS (ESI) m/z 222 (MA)+.

reactant | (R)-2-amino-2-phenylacetic acid | 6.62 mmol, 1.0 g | N[C@@H](C(=O)O)C1=CC=CC=C1 | C8H9NO2
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 0.727 mmol, 1.686 g | BrCCOCCBr | C4H8Br2O
reactant | sodium carbonate | 19.85 mmol, 2.103 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (R)-2-morpholino-2-phenylacetic acid | O1CCN(CC1)[C@@H](C(=O)O)C1=CC=CC=C1 | C12H15NO3
